US07399759B2
2-[4-(1-Benzoyl-2-pyrrolidinyl)-2-pyridyl]-4H-1,3-benzothiazin-4-one
4-(1-Benzoyl-2-pyrrolidinyl)-2-pyridinecarbonitrile (0.42 g, 1.5 mmol) and methyl thiosalicylate (1.03 g, 6.1 mmol) were dissolved in toluene (4 ml), and triethylamine (2.0 ml, 14.3 mmol) was added thereto. The mixture was refluxed for 14 hrs. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with ethyl acetate-hexane (4:1, v/v) were collected and concentrated to give the titled compound (0.52 g, 82%) as amorphous crystals.

reactant | 4-(1-Benzoyl-2-pyrrolidinyl)-2-pyridinecarbonitrile | 1.5 mmol, 0.42 g | C(C1=CC=CC=C1)(=O)N1C(CCC1)C1=CC(=NC=C1)C#N | C17H15N3O
reactant | methyl thiosalicylate | 6.1 mmol, 1.03 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 14.3 mmol, 2.0 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[4-(1-Benzoyl-2-pyrrolidinyl)-2-pyridyl]-4H-1,3-benzothiazin-4-one | 0.52 g, 82% | C(C1=CC=CC=C1)(=O)N1C(CCC1)C1=CC(=NC=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C24H19N3O2S
